US07696352B2
To a mixture of 2-(4-iodophenyl)-1H-imidazole-4-carboxylic acid prepared above (257 mg, 0.818 mmol) and NaH (60% suspension, washed with hexane, 82 mg, 2.1 mmol) in DMF (8 mL) was added iodomethane (0.130 mL, 2.1 mmol). The mixture was heated at 50° C. for 2 h. More iodomethane (0.100 mL) was added to the reaction mixture. After being stirred at 50° C. for an additional 2 h, water and EtOAc were added. The organic layer was separated, dried over Na2SO4, concentrated in vacuo to give methyl 2-(4-iodophenyl)-1-methyl-1H-imidazole-4-carboxylate (152 mg). MS 342.8 (M+H).

reactant | 2-(4-iodophenyl)-1H-imidazole-4-carboxylic acid | IC1=CC=C(C=C1)C=1NC=C(N1)C(=O)O | C10H7IN2O2
reactant | NaH | 2.1 mmol, 82 mg | [H-].[Na+]
reactant | iodomethane | 2.1 mmol, 0.130 mL | IC | CH3I
reactant | iodomethane | 0.100 mL | IC | CH3I
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-iodophenyl)-1-methyl-1H-imidazole-4-carboxylate | 152 mg | IC1=CC=C(C=C1)C=1N(C=C(N1)C(=O)OC)C | C12H11IN2O2
